US05622976
A solution of 4N hydrogen chloride in ethyl acetate (0.56 ml) was added to a solution of 3-[[2-{1-(4-fluorobenzyl)piperidin-4-yl}ethyl]carbamoyl]-5-(4-cyanophenyl)-1,2,4-oxadiazole (0.8 g) in ethyl acetate (20 ml) under ice cooling. The resulting precipitates were filtered off, washed with diethyl ether, and dried in vacuo to give 3-[[2-{1-(4-fluorobenzyl)piperidin-4-yl}ethyl]carbamoyl]-5-(4-cyanophenyl)-1,2,4-oxadiazole hydrochloride (0.75 g).

reactant | hydrogen chloride | 4N | Cl | ClH
reactant | 3-[[2-{1-(4-fluorobenzyl)piperidin-4-yl}ethyl]carbamoyl]-5-(4-cyanophenyl)-1,2,4-oxadiazole | 0.8 g | FC1=CC=C(CN2CCC(CC2)CCNC(=O)C2=NOC(=N2)C2=CC=C(C=C2)C#N)C=C1 | C24H24FN5O2
solvent | ethyl acetate | 0.56 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 3-[[2-{1-(4-fluorobenzyl)piperidin-4-yl}ethyl]carbamoyl]-5-(4-cyanophenyl)-1,2,4-oxadiazole hydrochloride | 0.75 g | Cl.FC1=CC=C(CN2CCC(CC2)CCNC(=O)C2=NOC(=N2)C2=CC=C(C=C2)C#N)C=C1 | InChI=1S/C24H24FN5O2.ClH/c25-21-7-3-19(4-8-21)16-30-13-10-17(11-14-30)9-12-27-23(31)22-28-24(32-29-22)20-5-1-18(15-26)2-6-20;/h1-8,17H,9-14,16H2,(H,27,31);1H
